US07777047B2
7-[(cyclopropylmethyl)(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide
A mixture of 7-[(cyclopropylmethyl)(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (264 mg), Lawesson's reagent (339 mg) and tetrahydrofuran (5 ml) was stirred at 60° C. for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography, and eluted with a mixed solvent of ethyl acetate-hexane (1:1) to give the title compound (243 mg, yield 88%) as an amorphous solid.

reactant | 7-[(cyclopropylmethyl)(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 264 mg | C1(CC1)CN(C=1C=CC=C2C=C(NC12)C(=O)N)S(=O)(=O)C=1SC=CC1 | C17H17N3O3S2
reactant | Lawesson's reagent | 339 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 7-[(cyclopropylmethyl)(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 243 mg, yield 88% | C1(CC1)CN(C=1C=CC=C2C=C(NC12)C(N)=S)S(=O)(=O)C=1SC=CC1 | C17H17N3O2S3
